US05089513
2-Bromomethylnaphthalene was reacted with ethyl vanillate using the conditions described in Example 1 to give ethyl 3-methoxy-4-(naphth-2-ylmethoxy)benzoate in 54% yield, m.p. 86°-87° C. Following the procedures described in the portion of Example 6 which is concerned with the preparation of starting materials the product so obtained was reacted with thiazol-2-yl-lithium and the resultant product was reacted with ethylmagnesium iodide to give the required starting material as an oil in 20% yield, m.p. 124°-126° C. (recrystallised from a mixture of hexane and ethyl acetate).

reactant | 2-Bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | ethyl vanillate | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
product | ethyl 3-methoxy-4-(naphth-2-ylmethoxy)benzoate | 54% yield | COC=1C=C(C(=O)OCC)C=CC1OCC1=CC2=CC=CC=C2C=C1 | C21H20O4
